US08440662B2
Step 1: N-(3-Bromo-phenyl)-2-hydroxyimino-acetamide
To a 3000 mL round bottom flask, 3-bromoaniline (50 g, 0.2907 mol), water (1500 mL), chloral hydrate (57.7 g, 0.3488 mol), hydroxylamine hydrochloride (64.6 g, 0.9302 mol) and sodium sulfate (250 g) were added. To this reaction mixture conc. HCl (76 mL) was slowly added. The reaction mixture was stirred at 90° C. for 2 h. The white precipitate was formed and was collected by filtration. The white solid was dried to get the title compound [60 g, 85%]. 1H NMR (300 MHz, DMSO-d6): δ 12.28 (s, 1H), 10.38 (s, 1H), 8.03 (t, J=1.5 Hz, 1H), 7.62-7.65 (m, 2H), 7.29-7.31 (m, 2H). LC-MS (ESI): Calculated mass: 242.0; Observed mass: 243.0 [M+H]+ (RT: 0.17 min).

reactant | 3-bromoaniline | 0.2907 mol, 50 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | chloral hydrate | 0.3488 mol, 57.7 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | hydroxylamine hydrochloride | 0.9302 mol, 64.6 g | Cl.NO
reactant | sodium sulfate | 250 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 76 mL | Cl | ClH
solvent | water | 1500 mL | O | H2O
product | N-(3-Bromo-phenyl)-2-hydroxyimino-acetamide | 60 g, 85% | BrC=1C=C(C=CC1)NC(C=NO)=O | C8H7BrN2O2
